US05116829
6,9-Difluoro-21-[2-(formylamino)-4-methylthio-1-oxobutylthio]-11α,17-dihydroxy-16α-methylpregna-1,4-diene-3,20-dione (Compound No. 5)
The title compound (0.027 gm) was prepared from 6,9-difluoro-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol (0.06 gm) and (N-formyl-L-methionine (0.175 gm) in the same manner as in Synthetic Example 1.

reactant | 6,9-difluoro-11β,17-dihydroxy-16β-methylpregna-1,4-diene-3,20-dione-21-thiol | 0.06 gm | FC1C[C@H]2[C@@H]3C[C@@H]([C@](C(CS)=O)([C@]3(C[C@@H]([C@@]2([C@]2(C=CC(C=C12)=O)C)F)O)C)O)C | C22H28F2O4S
reactant | N-formyl-L-methionine | 0.175 gm | C(=O)N[C@@H](CCSC)C(=O)O | C6H11NO3S
product | 6,9-Difluoro-21-[2-(formylamino)-4-methylthio-1-oxobutylthio]-11α,17-dihydroxy-16α-methylpregna-1,4-diene-3,20-dione | 0.027 gm | FC1C[C@H]2[C@@H]3C[C@H]([C@](C(CSC(C(CCSC)NC=O)=O)=O)([C@]3(C[C@H]([C@@]2([C@]2(C=CC(C=C12)=O)C)F)O)C)O)C | C28H37F2NO6S2
